US04001426
2-p-Methoxyphenyl-3-p-methylbenzoylbenzofuran (4.9 g., 0.014 mol.) was combined with 50 g. of freshly distilled pyridine hydrochloride and the mixture was heated at 180°-190° for 4.5 hours. The hot mixture was poured with stirring onto an ice-5% aqueous hydrochloric acid mixture and the precipitate formed was extracted into ether. The ether solution was dried (MgSO4) and concentrated under reduced pressure to give 2-p-hydroxyphenyl-3-p-methylbenzoylbenzofuran.

reactant | 2-p-Methoxyphenyl-3-p-methylbenzoylbenzofuran | 0.014 mol, 4.9 g | COC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC=C(C=C1)C)=O)C=CC=C2 | C23H18O3
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | 2-p-hydroxyphenyl-3-p-methylbenzoylbenzofuran | OC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC=C(C=C1)C)=O)C=CC=C2 | C22H16O3
